US08492401B2
Ethyl 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenylthiazole-4-carboxylate (2.6 g, 7.9 mmol) was dissolved in MeOH/THF (1:1, 60 mL) and a solution of LiOH (378 mg, 15.7 mmol) in H2O (15 mL) was added. The reaction was stirred for ˜5 h and the pH adjusted to ˜3 by the addition of 3N HCl. The mixture was poured into brine and extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4) and concentrated. The crude product was crystallized from EtOAc to give 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenylthiazole-4-carboxylic acid (1.8 g, 75% yield).

reactant | Ethyl 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenylthiazole-4-carboxylate | 7.9 mmol, 2.6 g | O1C(OCC1)CCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OCC | C17H19NO4S
reactant | LiOH | 15.7 mmol, 378 mg | [Li+].[OH-]
reactant | HCl | 3N | Cl | ClH
solvent | MeOH THF | 60 mL | CO.C1CCOC1
solvent | H2O | 15 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenylthiazole-4-carboxylic acid | 1.8 g, 75% yield | O1C(OCC1)CCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)O | C15H15NO4S
